US07361671B2
A solution of 5-allyl-6-ethyl-pyridin-3-yl-acetonitrile (1.30 g, 6.98 mmol) and 4.0 M HCl/dioxane (6.9 mL, 28 mmol) in anhydrous methanol (16 mL, 0.4 M) is warmed to a gentle reflux and stirred overnight under nitrogen. After cooling, the mixture is added to saturated aq NaHCO3 (30 mL), extracted with ethyl acetate (2×30 mL) and dried over Na2SO4. The product is purified by MPLC (25-90% ethyl acetate in n-heptane) to provide 5-allyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester as a clear oil (1.21 g, 79%): Rf 0.39 (50% ethyl acetate in n-heptane), 1H NMR (CDCl3, 300 MHz) δ 8.32 (d, J=2.2 Hz, 1 H), 7.38 (d, J=2.2 Hz, 1 H), 5.93 (ddt, J1=16.8 Hz, J2=10.2 Hz, J3=6.2 Hz, 1 H), 5.12 (dd, J1=10.2 Hz, J2=1.6 Hz, 1H), 5.02 (dd, J1=16.8 Hz, J2=1.6 Hz, 1H), 3.70 (s, 3 H), 3.40 (d, J=6.2 Hz, 2 H), 2.81 (q, J=7.5 Hz, 2 H), 1.28 (t, J=7.5 Hz, 3 H). ESI-LCMS m/z calcd for C13H17NO2: 219.1; found 220.0 (M+1)+.

reactant | 5-allyl-6-ethyl-pyridin-3-yl-acetonitrile | 6.98 mmol, 1.30 g | C(C=C)C=1C=C(C=NC1CC)CC#N | C12H14N2
reactant | HCl dioxane | 28 mmol, 4.0 M, 6.9 mL | Cl.O1CCOCC1
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 0.4 M, 16 mL | CO | CH4O
product | 5-allyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester | 1.21 g, 79% | COC(CC=1C=NC(=C(C1)CC=C)CC)=O | C13H17NO2
